US09216980B2
Preparation of 1-(4-Bromobenzyl)-cis-2,6-dimethylpiperidine
A mixture of 1-bromo-4-bromomethylbenzene (500 mg, 2.0 mmol), cis-2,6-dimethylpiperidine (0.30 mL, 2.2 mmol) and potassium carbonate (332 mg, 2.4 mmol) in acetonitrile (20 mL) was heated under reflux for 2 h. The reaction mixture was allowed to cool to ambient temperature, the solid removed by filtration and the filtrate evaporated in vacuo. The resultant residue was partitioned between ethyl acetate (100 mL) and water (25 mL). The organic phase was dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to give the title compound as a pale brown oil (464 mg, 82%). 1H NMR (CDCl3, 300 MHz): 7.40 (d, J=8.3 Hz, 2H), 7.27 (d, J=7.0 Hz, 2H), 3.71 (s, 2H), 2.56-2.36 (m, 2H), 1.68-1.61 (m, 1H), 1.61-1.47 (m, 2H), 1.33-1.24 (m, 3H), 1.01 (d, J=6.2 Hz, 6H). LCMS (Method B): RT=0.8 min, M+H+=282/284.

reactant | 1-bromo-4-bromomethylbenzene | 2.0 mmol, 500 mg | BrC1=CC=C(C=C1)CBr | C7H6Br2
reactant | cis-2,6-dimethylpiperidine | 2.2 mmol, 0.30 mL | C[C@@H]1N[C@@H](CCC1)C | C7H15N
reactant | potassium carbonate | 2.4 mmol, 332 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 1-(4-Bromobenzyl)-cis-2,6-dimethylpiperidine | 464 mg, 82% | BrC1=CC=C(CN2[C@H](CCC[C@H]2C)C)C=C1 | C14H20BrN
